US07572801B2
A suspension of 2-(4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-isoindole-1,3-dione (1.0 g, 3.26 mmol) and hydrazine monohydrate (0.48 ml, 9.79 mmol) in ethanol (90 ml) was stirred at 50° C. for 3 hours. The mixture was cooled to ambient temperature and sodium carbonate (0.38 g, 3.59 mmol) and water (1 ml) were added. The suspension was stirred overnight at ambient temperature. The solid residue was filtered off, triturated with CH2Cl2/MeOH (4/1) under reflux conditions. A white solid was filtered off and triturated with TBME to yield 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one (0.285 g, 1.62 mmol; 50%), as white solid. MS (m/e): 176.8 [M+H+].

reactant | 2-(4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-isoindole-1,3-dione | 3.26 mmol, 1.0 g | O=C1C2=C(N=C(N1)CN1C(C3=CC=CC=C3C1=O)=O)N=CC=C2 | C16H10N4O3
reactant | hydrazine monohydrate | 9.79 mmol, 0.48 ml | O.NN
reactant | sodium carbonate | 3.59 mmol, 0.38 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1 ml | O | H2O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | 2-aminomethyl-3H-pyrido[2,3-d]pyrimidin-4-one | 1.62 mmol, 0.285 g, 50% | NCC=1NC(C2=C(N1)N=CC=C2)=O | C8H8N4O
